US07790724B2
c) 2-Bromo-4-(6-methoxy-pyridin-3-yl)-phenylamine
The title compound was prepared from 4-(6-methoxy-pyridin-3-yl)-phenylamine (as prepared in the previous step, 73 mg, 0.36 mmol) and NBS (65 mg, 0.36 mmol) according to the procedure in Example 16, step (b) (20 mg, 20%). Mass spectrum (ESI, m/z): Calcd. for Cl2H11BrN2O, 279.0 (M+H), found 279.2.

reactant | 4-(6-methoxy-pyridin-3-yl)-phenylamine | COC1=CC=C(C=N1)C1=CC=C(C=C1)N | C12H12N2O
reactant | NBS | 0.36 mmol, 65 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | 2-Bromo-4-(6-methoxy-pyridin-3-yl)-phenylamine | BrC1=C(C=CC(=C1)C=1C=NC(=CC1)OC)N | C12H11BrN2O
